US09303045B2
Step 2: 5-Fluoro-1-(methylsulfonyl)-1H-indole-3-carboxylic acid
A mixture of tert-butyl 5-fluoro-1-(methylsulfonyl)-1H-indole-3-carboxylate (150 mg, 0.479 mmol) and conc. HCl (0.2 ml, 2.394 mmol) in EtOAc (10 ml) was stirred at RT for 2 h. The mixture was then partially concentrated, and the resulting precipitate was collected by filtration, washed with EtOAc and dried in vacuo to afford the title compound as a white solid, which was used without further purification.

reactant | tert-butyl 5-fluoro-1-(methylsulfonyl)-1H-indole-3-carboxylate | 0.479 mmol, 150 mg | FC=1C=C2C(=CN(C2=CC1)S(=O)(=O)C)C(=O)OC(C)(C)C | C14H16FNO4S
reactant | HCl | 2.394 mmol, 0.2 ml | Cl | ClH
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
product | 5-Fluoro-1-(methylsulfonyl)-1H-indole-3-carboxylic acid | FC=1C=C2C(=CN(C2=CC1)S(=O)(=O)C)C(=O)O | C10H8FNO4S
